US04237138
N-Acetyl-4-(2,2-diethoxyethoxy)piperidine (12 g.) in 0.5 N hydrochloric acid (50 ml.) was stirred at room temperature overnight. The solution was saturated with sodium chloride and extracted several times with chloroform (total 500 mls.). The chloroform extract was dried (Na2SO4) and the solvent evaporated in vacuo and with a bath temperature below 30° C. The resultant intermediate aldehyde (9.8 g.) was reduced immediately with sodium borohydride (0.75 g.) in ethanol (75 ml.), at pH 6. After stirring for 3 hours at room temperature reduction was complete. Water was then added to the stirred solution and the organic solvent evaporated in vacuo. The residue was taken up in water (30 ml.), extracted with chloroform (10×30 ml.), the combined chloroform extracts dried (Na2SO4) and the solvent evaporated in vacuo. The residue was taken up in water (70 ml.) and washed with petroleum ether (2×10 ml.). The aqueous phase was concentrated to give N-acetyl-4-(2-hydroxyethoxy)piperidine (6.9 g.) characterized spectroscopically. A sample was distilled and had a b.p. of 139°-140° C./0.3 mm.

reactant | N-Acetyl-4-(2,2-diethoxyethoxy)piperidine | 12 g | C(C)(=O)N1CCC(CC1)OCC(OCC)OCC | C13H25NO4
reactant | sodium chloride | [Cl-].[Na+]
solvent | hydrochloric acid | 0.5 N, 50 ml | Cl | ClH
product | N-acetyl-4-(2-hydroxyethoxy)piperidine | 6.9 g | C(C)(=O)N1CCC(CC1)OCCO | C9H17NO3
